US04593055
Preparation of Triisopropylsilyl Acrylate Monomer
72.1 g (1 mol) of glacial acrylic acid, 101.2 g (1 mol) of triethylamine 0.072 g of methoxyphenol and 300 ml of xylene is added to a four-neck, round bottom flask equipped with a stirrer, condenser, nitrogen inlet, thermometer and dropping funnel. Under a nitrogen blanket, a solution of 192.8 g (1 mol) of triisopropylchlorosilane in 100 ml of xylene is slowly added to the rapidly stirred reactants at room temperature. The temperature is permitted to rise to a maximum temperature of 55° C. and this temperature is maintained with cooling if necessary.

reactant | acrylic acid | 1 mol, 72.1 g | C(C=C)(=O)O | C3H4O2
reactant | triethylamine | 1 mol, 101.2 g | C(C)N(CC)CC | C6H15N
reactant | methoxyphenol | COC1=C(C=CC=C1)O | C7H8O2
reactant | triisopropylchlorosilane | 1 mol, 192.8 g | C(C)(C)[Si](Cl)(C(C)C)C(C)C | C9H21ClSi
solvent | xylene | 100 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Triisopropylsilyl Acrylate | C(C=C)(=O)O[Si](C(C)C)(C(C)C)C(C)C | C12H24O2Si
